US07977358B2
[5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone
The title compound was prepared from 5-cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid and ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanoldihydrochloride (Example 161A]) in direct analogy to the general procedure used in example 150. MS: 493.2 (MH+).

reactant | 5-cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC=C(C=C1)OC(F)(F)F)C)C(=O)O | C15H13F3N2O3
reactant | ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanoldihydrochloride | Cl.Cl.N1CCC(CC1)N1[C@@H](CCC1)CO
product | [5-Cyclopropyl-3-methyl-1-(4-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone | C1(CC1)C1=C(C(=NN1C1=CC=C(C=C1)OC(F)(F)F)C)C(=O)N1CCC(CC1)N1[C@@H](CCC1)CO | C25H31F3N4O3
